US08039460B2
Step E: Benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate
Bis(tri-t-butylphosphine) palladium(0) (9.0 mg, 0.018 mmol) was added to solution of benzyl 4-[2-((3-bromopyridin-2-yl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate (0.10 g, 0.18 mmol) and dicyclohexylmethylamine (42 μL, 0.196 mmol) in dioxane (2 mL). After 5 min, the reaction mixture was heated to 50° C. After 1.5 h, additional bis(tri-t-butylphosphine) palladium(0) (9.0 mg, 0.018 mmol) was added. After 20 min, water was added and the mixture was extracted with ether (2×). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (95% hexanes/ethyl acetate→40% hexanes/ethyl acetate) gave the title compound (68 mg). MS 480.2 (M+1).

reactant | benzyl 4-[2-((3-bromopyridin-2-yl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate | 0.18 mmol, 0.10 g | BrC=1C(=NC=CC1)N(C(CC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)COCC[Si](C)(C)C | C26H34BrN3O4Si
reactant | dicyclohexylmethylamine | 0.196 mmol, 42 μL | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
reactant | water | O | H2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Bis(tri-t-butylphosphine) palladium(0) | 0.018 mmol, 9.0 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
catalyst | bis(tri-t-butylphosphine) palladium(0) | 0.018 mmol, 9.0 mg | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | Benzyl 2-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-2,2′,3,3′-tetrahydro-1H,1′H-spiro[1,8-naphthyridine-4,4′-pyridine]-1′-carboxylate | 68 mg | O=C1N(C2=NC=CC=C2C2(CCN(C=C2)C(=O)OCC2=CC=CC=C2)C1)COCC[Si](C)(C)C | C26H33N3O4Si
